US06777409B2
375 ml (0.75 mol) of an aqueous 2 M lithium hydroxide solution is added to a solution of 44 g (0.15 mol) of 1-tert-butoxycarbonyl-3,4-dihydro-4,4-dimethyl-6-fluoro-2-quinolone in 1 l of THF. After 24 hours at room temperature, the batch is concentrated by evaporation, brought to pH 4 with 10% citric acid and extracted with ether. The combined organic extracts are washed with saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography of the residue on silica gel with hexane-ethyl acetate yields 34.0 g of 3-(2-tert-butoxycarbonylamino-5-fluorophenyl)-3-methylbutyric acid [1H-NMR (CDCl3) δ (ppm)=1.62 (br.s, 15 H), 2.77 (s, 2H), 6.41 (br, 1H), 6.93 (td, 1H), 7.07 (dd, 1H), 7.20 (br, 1H)], which dissolves in 1 l of THF and is mixed at 0° C. with 17 ml (121 mmol) of triethylamine and 11.5 ml (121 mmol) of ethyl chloroformate. After 10 minutes at 0° C., 20.7 g (546 mmol) of sodium borohydride is added to it, and 1 l of MeOH is slowly added in drops to it. The batch is stirred for another 30 minutes at 0° C., concentrated by evaporation and diluted with ethyl acetate. It is washed with saturated NaCl, dried on Na2SO4 and purified by column chromatography on silica gel with hexane-ethyl acetate. Yield: 6.7 g.

reactant | lithium hydroxide | 2 M | [OH-].[Li+]
reactant | 1-tert-butoxycarbonyl-3,4-dihydro-4,4-dimethyl-6-fluoro-2-quinolone | 0.15 mol, 44 g | C(C)(C)(C)OC(=O)N1C(CC(C2=CC(=CC=C12)F)(C)C)=O | C16H20FNO3
solvent | THF | 1 l | C1CCOC1 | C4H8O
product | 3-(2-tert-butoxycarbonylamino-5-fluorophenyl)-3-methylbutyric acid | 34.0 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)F)C(CC(=O)O)(C)C | C16H22FNO4
